US08044062B2
To a solution of 2-ethylamino-4-cyclohexylamino-5-iodo-6-methylpyrimidine (660 mg, 1.83 mmol) in DMA (7 mL) was added ethyl acrylate (458 mg, 4.58 mmol), Pd(OAc)2 (121 mg, 0.18 mmol), (o-Tol)3P (110 mg, 0.37 mmol), and Et3N (740 mg, 7.32 mmol). The mixture was then stirred at 100° C. for 12 h under N2. Standard workup and purification by column chromatography gave 411 mg (67% yield) of (E)-ethyl 3-(4-(cyclohexylamino)-2-(ethylamino)-6-methylpyrimidin-5-yl)acrylate

reactant | 2-ethylamino-4-cyclohexylamino-5-iodo-6-methylpyrimidine | 1.83 mmol, 660 mg | C(C)NC1=NC(=C(C(=N1)NC1CCCCC1)I)C | C13H21IN4
reactant | ethyl acrylate | 4.58 mmol, 458 mg | C(C=C)(=O)OCC | C5H8O2
reactant | Et3N | 7.32 mmol, 740 mg | CCN(CC)CC | C6H15N
solvent | DMA | 7 mL | CC(=O)N(C)C | C4H9NO
catalyst | Pd(OAc)2 | 0.18 mmol, 121 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (E)-ethyl 3-(4-(cyclohexylamino)-2-(ethylamino)-6-methylpyrimidin-5-yl)acrylate | 411 mg, 67% yield | C1(CCCCC1)NC1=NC(=NC(=C1/C=C/C(=O)OCC)C)NCC | C18H28N4O2
